Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / levothyroxine sodium
 
Attending: ___.
 
Chief Complaint:
Encephalopathy
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient is a ___ yo M with PMHx non-alcoholic fatty liver 
disease, HTN, HLD, G6PD, OSA, who presents with 1 day of 
confusion.  

History is obtained from patient and daughter on admission as he 
is a poor historian. He was in his usual state of health 
yesterday morning (___) when he woke up. His girlfriend, 
___, became worried when he took an unusually long time in 
the shower and so she called his daughter out of concern. When 
he came out of the shower, he seemed confused, and he repeatedly 
weighed himself and told his girlfriend that he weighed 168 lbs 
(which was not accurate). She asked if he meant "198" to which 
he then repeatedly changed the number to equally inaccurate 
weights (such as 900, 118, etc.). He then drove himself to work 
to his accounting office. He reportedly was not acting his usual 
self, apparently going into a coworker's room saying "I don't 
feel right", then going outside and having difficulty placing 
the key into his car. He then drove to his girlfriend's home, 
where, now very concerned, his girlfriend brought him to his 
daughter's house. He continued to be confused and argumentative 
about facts (such as his weight, the date, and directions). The 
patient initially refused to be brought into the ED but 
eventually was  brought into ED by son on the morning of ___.

In the ED, the family states that he does seem a bit improved 
but is not completely back to normal, and the patient himself 
acknowledges that his thinking and memory are not at baseline. 

Per family, the patient has had previous episodes of confusion 
in the past and this current episode is similar.  Prior episodes 
of confusion both occurred also after taking a hot shower. The 
first episode was in ___, beginning with him unable to locate 
his shoes, and lasted about 10 hours. He presented to ___ and 
was worked up with MRI/MRA which showed small vessel ischemic 
disease but no evidence of stroke. He followed up with Dr. 
___ in clinic here and underwent routine EEG which was also 
normal; a possible diagnosis of transient global amnesia was 
made. He then had another episode in ___ however this was 
short-lived and not witnessed by his family members.  ___ 
after episodes he completely returns to baseline functioning per 
family. 

He is able to do his own taxes (does taxes for a living), cooks 
and able to go to work and function as an ___.  Family 
has no concerns for cognitive decline although patient's mother 
was diagnosed with alzheimers in her ___. 

On general review of systems, the he denies recent fever or 
chills. No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath. Denies chest pain or tightness, 
palpitations. Denies nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits.  No 
dysuria. Denies arthralgias or myalgias. Denies rash. The 
patient denies headache, loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denies difficulties producing or 
comprehending speech. Denies focal  weakness, numbness, 
parasthesiae. Denies difficulty with gait.

In the ED, initial VS were VS 97.8 79 129/79 20 96% RA 
Labs showed WBC 6.8, Hbg 13.6, Plt 111k, INR 1.3, ALT 59, AST 
69, TBili 2.1, serum tox neg, Cr 0.9, lactate wnl 
CT head negative for any intracranial pathology
Did not receive anything in the ED
Transfer VS were 97.8 79 129/79 20 96% RA 
Neurology consulted and decision was made to admit to medicine 
for further management.  

On arrival to the floor, patient endorses HPI as above.  Feels 
almost back to baseline.  Notes that when he was in the shower 
and his acute confusion episode began, he knew his identity and 
the identity of his family members but ___ recall certain 
details (i.e. daughters DOB).  Family is at bedside and agrees 
that he is not quite at baseline mental status. They are 
concerned as to the etiology of these "confusional episodes".  
Patient endorses some changes in medications in the last few 
weeks. Has recently been taking off his BB and statin by his 
doctor.  Was previously taking tramadol for his hx of clavicle 
fracture but none in the last two weeks.  Was previously taking 
vicodin for pain and cyclobenzabrine but none in the last two 
weeks.  No recent Tylenol use.  
 
Past Medical History:
OSA not currently on CPAP
Non-alcoholic fatty liver disease
Hypertension
Hyperlipidemia
Obesity
G6PD deficiency
Right clavicular fracture ___
?Transient global amnesia
- 10 hour episode in ___, for which he received MRI/A at ___ 
and
seen in f/u with Dr. ___ with subsequent EEG here, all
without abnormalities
- <1 hour episode in ___
Involuntary hand movements x 6 months- seen in Movement 
disorders
clinic recently with unclear diagnosis as he did not exhibit any
abnormal movement
 
Social History:
___
Family History:
No family history of seizures, strokes, amnesia.  
Mom deceased, ___ disease dx in her ___
No family hx of liver disease cirrhosis, transplant or GI 
cancers. 
Family hx positive for G6PD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VS T98.1 BP131 / 90 HR66 RR18 97% on RA 
GENERAL: NAD, sitting up in bed, with family at bedside, AAOX3 
(self, place, date)
___: AT/NC, has EEG leads on, EOMI, PERRL, anicteric sclera, 
MMM, good dentition  
NECK: nontender supple neck, no LAD
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably on 
room air
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, negative murphys sign
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, ___ UE & ___ strength, sensation grossly 
intact, no asterixis, reflexes difficult to illicit, no 
dysdidokinesia
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

DISCHARGE PHYSICAL EXAM:
======================
VS T98.0 BP112 / 72 HR68 RR18 96% on RA
GENERAL: NAD, sitting up in bed, with girlfriend at bedside, 
AAOX3 
___: AT/NC, anicteric sclera, MMM
NECK: nontender supple neck, no LAD
CARDIAC: RRR -m/r/g 
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, no focal neurologic deficits, no 
asterixis, no dysdidokinesia
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

 
Pertinent Results:
ADMISSION LABS:
=============
___ 11:55AM BLOOD WBC-6.8 RBC-3.96* Hgb-13.6* Hct-38.8* 
MCV-98 MCH-34.3* MCHC-35.1 RDW-13.1 RDWSD-46.8* Plt ___
___ 11:55AM BLOOD Neuts-43.5 ___ Monos-10.9 
Eos-7.5* Baso-0.6 Im ___ AbsNeut-2.94 AbsLymp-2.53 
AbsMono-0.74 AbsEos-0.51 AbsBaso-0.04
___ 11:55AM BLOOD ___ PTT-35.3 ___
___ 11:55AM BLOOD Glucose-107* UreaN-17 Creat-0.9 Na-136 
K-4.1 Cl-104 HCO3-20* AnGap-16
___ 11:55AM BLOOD ALT-59* AST-69* AlkPhos-119 TotBili-2.1* 
DirBili-0.5* IndBili-1.6
___ 11:55AM BLOOD Albumin-3.8
___ 11:55AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:24PM BLOOD Lactate-1.8
___ 08:23PM URINE Color-Yellow Appear-Clear Sp ___
___ 08:23PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-8* pH-6.5 Leuks-NEG
___ 08:23PM URINE RBC-2 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 08:23PM URINE Mucous-RARE

PERTINENT INTERVAL LABS:
=====================
___ 05:25AM BLOOD ___ PTT-37.0* ___
___ 09:24PM BLOOD ALT-58* AST-66* AlkPhos-113 TotBili-2.1*
___ 05:25AM BLOOD ALT-56* AST-64* AlkPhos-111 TotBili-1.9*
___ 03:05PM BLOOD Ammonia-180*

DISCHARGE LABS:
==============
___ 08:10AM BLOOD WBC-5.9 RBC-3.84* Hgb-13.2* Hct-37.8* 
MCV-98 MCH-34.4* MCHC-34.9 RDW-13.0 RDWSD-46.1 Plt ___
___ 08:10AM BLOOD Glucose-101* UreaN-18 Creat-1.0 Na-136 
K-3.8 Cl-101 HCO3-22 AnGap-17
___ 08:10AM BLOOD ALT-59* AST-62* LD(LDH)-153 AlkPhos-114 
TotBili-1.5
___ 08:10AM BLOOD Albumin-3.5 Calcium-9.8 Phos-3.9 Mg-1.7

MICRO:
=====
___ UCx No Growth

IMAGING:
=======
___ CT HEAD W/O CON
1. No acute intracranial abnormalities.
2. Paranasal sinus disease, as described above.

___ RUQ U/S
1. Mildly nodular hepatic contour raises the possibility of 
cirrhosis.
2. Cholelithiasis.
3. Borderline mild splenomegaly (13.8 cm). Patent portal vein 
with normal
directional flow. No ascites.

STUDIES:
======
___ EEG 
This continuous video-EEG monitoring study captured no 
pushbutton
activations, electrographic seizures, or epileptiform 
discharges. The
background findings indicated a moderate diffuse encephalopathy, 
which implies
widespread cerebral dysfunction but is nonspecific as to 
etiology.
 
 
Brief Hospital Course:
___ M with PMHx of non-alcoholic fatty liver disease, HTN, HLD, 
G6PD, OSA, who presents with 1 day of confusion c/f acute toxic 
metabolic encephalopathy: 

#Confusion: Patient presented to ED with acute confusional 
episode that began 24 hours prior to admission.  Initial 
examination nonfocal apart from attentional difficulties and 
beats of asterixis.  Laboratory studies revealed a mild 
transaminase elevation (at baseline), thrombocytopenia (at 
baseline), and total bilirubin was elevated as was ammonia 
level.  His overall picture was suggestive of a toxic metabolic 
etiology, possibly of hepatic origin given his diagnosis of NASH 
(although no biopsy proven cirrhosis).  Infectious workup was 
unremarkable.  Negative tox screen.  CT head negative for acute 
process.  No changes to medications week prior to admission and 
patient is currently only on lisinopril for high blood pressure. 
 Had used vicodin for clavicular fracture x 1 day but none in 
week prior to admission.  EEG monitoring showed moderate diffuse 
encephalopathy.  RUQ U/S showed mildly nodular hepatic contour 
raising the possibility of cirrhosis. He was started on 
lactulose for possible hepatic encephalopathy, and admission was 
discussed with his outpatient hepatologist.  Prior to discharge, 
patient's confusional state resolved.  He was discharged to home 
with family with instructions to follow up with his primary care 
physician and his gastroenterologist.

#Transaminitis/hyperbilirubinemia iso NAFLD: Transaminitis 
appears chronic but acute elevation in Tbili above baseline. 
Patient denied biliary symptoms. He has had elevated liver 
enzymes and radiographic observation of steatosis since ___, 
for which he has been followed by Gastroenterologist Dr. 
___. He underwent a liver biopsy in ___ which 
demonstrated steatosis (___) that was mainly macrovesicular, 
scattered hepatocytes with ballooning degeneration, scattered 
sinusoidal neutrophils, without cytoplasmic hyalin identified. 
Throughout the years, lifestyle modifications have been 
recommended.  He was previously on a statin which was recently 
stopped. Abdominal ultrasound from ___ does not reveal liver 
lesions, and EGD ___ did not reveal varices.  A repeat RUQ 
U/S during admission showed a mildly nodular hepatic contour 
raises the possibility of cirrhosis.  LFTs downtrended prior to 
discharge and patient was started on lactulose given possible 
hepatic encephalopathy.  Patient will follow up with in liver 
clinic.

# Thrombocytopenia: Patient's low platelets has been attributed 
to chronic liver disease per hematology.  Blood smear ___ 
showed slight decrease in platelet number, but the platelets 
exhibited normal morphology. Recently tested negative for 
hepatitis B, C, or HIV infection, lupus, hemochromatosis, B12 or 
folate deficiency.  RUQ U/S revealed splenomegaly as well which 
may be contributing. 

# Hx Right clavicular fracture ___: Patient is s/p 
mechanical fall on wet stairs. ___ XR showed unchanged 
appearance of displaced right midshaft clavicular fracture. 
Probable traumatic/ mechanical osteolysis along the AC joint. He 
has an orthopedics follow up appointment. 

# Hypertension: Patient was continued on lisinopril during 
admission. 

# Hyperlipidemia: stable, not on statin.

# OSA: not on CPAP. He had a recent sleep study ___ to 
re-evaluate him for a prior sleep apnea diagnosis. Recommended 
laboratory CPAP titration or alternative auto CPAP 8-15 cm and 
careful data tracking.  He was given CPAP overnight during 
admission. 

# G6PD deficiency: noted.

#TRANSITIONAL ISSUES#
Discharge Hbg: 13.2
Discharge Plts: 100K
Medications added: lactulose 30mL TID for goal ___ BM daily
Patient needs immunzation for Hep A and Hep B and his 
gastroenterologist ___ is aware.
___ be due for pneumococcal vaccine. Please follow up at PCP 
___. 
Given this confusional episode, pt was instructed not to drive 
until he follow up with his PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1.  Lactulose 30 mL PO TID encepathlopy 
RX *lactulose 20 gram/30 mL 30 mL by mouth three times a day 
Refills:*0 
2.  Lisinopril 5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Encephalopathy
Secondary Diagnoses:
NAFLD
Thrombocytopenia
HTN
OSA 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you and your family 
were worried about your confusion.  You confusion better over a 
few days while we watched you carefully and checked some blood 
work and performed a few studies.

The neurologists were consulted and performed an EEG to evaluate 
for seizures.  Your confusion was not caused by a seizure.  
Given your history of fatty liver disease, your liver was 
evaluated with an ultrasound which showed some mild changes 
raising the possibility of cirrhosis.  Although your liver seems 
to be functioning well, based on lab results, your confusion may 
be caused by your fatty liver disease.  We started a medication 
caused lactulose which can help treat confusion in liver 
disease.  

Your obstructive sleep apnea can cause fatigue and contribute to 
your overall memory and alertness and so you were started on 
CPAP during this hospital stay.  You have an appointment in the 
sleep clinic in ___.  

Although we were not able to figure out the exact cause of your 
confusion, we did not find anything acutely dangerous to explain 
your confusion.  You did not have an infection.  You are safe to 
leave the hospital and continue your daily activities as you 
were doing before you became confused.  Seeing your primary care 
doctor and liver doctor after discharge from the hospital is 
important so you and your doctors ___ figure out the exact cause 
of your confusional episodes.  We know this is not the first 
time this has happened to you, unfortunately.

We notified your liver doctor of your admission to the hospital 
and you should follow up with your liver doctor after discharge.
We notified your primary care doctor of your admission to the 
hospital and you should follow up with your primary care doctor 
within ___ week of discharge. 

You should not drive until you follow up with your primary care 
doctor.

It was a pleasure taking care of you!  We hope you feel better!

Sincerely,
Your ___ Team
 
Followup Instructions:
___